US08222248B2
2-(2,6-Dimethylphenyl)-1H-indole-6-carboxylic acid (3,4-dimethylphenyl)-amide
The title compound was prepared from 2-(2,6-dimethylphenyl)-1H-indole-6-carboxylic acid and 3,4-dimethylaniline analogous to Example 3-4. 1H NMR (CDCl3, 400 MHz): δ 8.38 (s, broad, 1H), 8.08 (s, 1H), 7.84 (s, broad, 1H), 7.69 (d, J=8.3 Hz, 1H), 7.56 (dd, J=8.3, 1.6 Hz, 1H), 7.45 (d, J=2.0 Hz, 1H), 7.37 (dd, J=8.1, 2.3 Hz, 1H), 7.25 (m, 1H), 7.12 (m, 3H), 6.46 (m, 1H), 2.27 (s, 3H), 2.24 (s, 3H), 2.17 (s, 61-1). MS (m/z) 369.2 (M+1), Retention time=1.73 min (Method 10).

reactant | 2-(2,6-dimethylphenyl)-1H-indole-6-carboxylic acid | CC1=C(C(=CC=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)O | C17H15NO2
reactant | 3,4-dimethylaniline | CC=1C=C(N)C=CC1C | C8H11N
product | 2-(2,6-Dimethylphenyl)-1H-indole-6-carboxylic acid (3,4-dimethylphenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC=C2C=C(NC2=C1)C1=C(C=CC=C1C)C | C25H24N2O
